US04956490
A. 4-(p-Methoxyphenyl)-2-Oxo-3-Butenoic Acid
Sodium pyruvate (24.2 g, 0.22 mol) was dissolved in 200 ml 1N aqueous sodium hydroxide at 20° C. To this solution there was added anisaldehyde (27.4 g, 0.20 mol) at 0.2 ml/min. The solution was aged twenty-four hours at 20° C., cooled at 0° C. and acidified with 6N NCl to pH 1.0 while maintaining a temperature of 0° C. The 4-(p-methoxyphenyl)-2-oxo-3-butenoic acid product was then extracted with 500 ml ethyl acetate and isolated as a yellow solid by concentration under vacuum. The yield by HPLC analysis was 88%.

reactant | Sodium pyruvate | 0.22 mol, 24.2 g | C(C(=O)C)(=O)[O-].[Na+]
reactant | anisaldehyde | 0.20 mol, 27.4 g | COC=1C=CC(=CC1)C=O | C8H8O2
solvent | sodium hydroxide | 1N, 200 ml | [OH-].[Na+]
product | 4-(p-Methoxyphenyl)-2-Oxo-3-Butenoic Acid | COC1=CC=C(C=C1)C=CC(C(=O)O)=O | C11H10O4
